US06110924
a) Preparation of 4-(ethoxycarbonylmethylidene)piperidine
To a suspension of sodium hydride (2.6 g) in 30 ml of tetrahydrofuran, cooled to 0° C. and kept under nitrogen atmosphere, 13 ml of triethylphosphonoacetate, dissolved in 10 ml of tetahydrofuran, are added dropwise. The temperature is then brought to room temperature and the stirring is continued for 30 minutes. The mixture is again cooled to 0° C. and it is added dropwise with a solution obtained by adding portionwise to a solution of 4-piperidone monohydrate hydrochloride (10 g) in THF 2.6 g of sodium hydride filtered to eliminate the sodium chloride which formed. At the end of the addition, the temperature is brought to room temperature and the stirring is continued for 20 hours. The solvent is then evaporated under reduced pressure and the residue is redissolved in ethyl acetate and washed with 1 N hydrochloric acid. The aqueous phase is extracted with ethyl acetate and chloroform, then it is basified to pH=9-10 by adding 20% sodium hydroxide and it is extracted with chloroform. The aqueous phase is then salted and extracted again with chloroform three times. The pooled extracts are dried over sodium sulfate and evaporated to give 7.1 g of the product as a yellow oil.

reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | 4-piperidone monohydrate hydrochloride | 10 g | Cl.O.N1CCC(CC1)=O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | THF | 2.6 g | C1CCOC1 | C4H8O
product | 4-(ethoxycarbonylmethylidene)piperidine | 7.1 g | C(C)OC(=O)C=C1CCNCC1 | C9H15NO2
